US03974158
To a solution of 4-benzyl-2-anilinomethylmorpholine (8.1 g.) in toluene (50 ml.) and hexamethylene phosphoramide (2 ml.) is added phenylchloroformate (8 ml.). A white precipitate forms which does not dissolve when the mixture is refluxed for 4 hours. The solid (10.15 g.) is crystallised from ethanol to give 4-benzyl-2-(N-phenoxycarbonylanilino)methylmorpholine hydrochloride, m.p. 248°-250°C.

reactant | 4-benzyl-2-anilinomethylmorpholine | 8.1 g | C(C1=CC=CC=C1)N1CC(OCC1)CNC1=CC=CC=C1 | C18H22N2O
reactant | phenylchloroformate | 8 ml | C1(=CC=CC=C1)OC(=O)Cl | C7H5ClO2
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 4-benzyl-2-(N-phenoxycarbonylanilino)methylmorpholine hydrochloride | Cl.C(C1=CC=CC=C1)N1CC(OCC1)CN(C1=CC=CC=C1)C(=O)OC1=CC=CC=C1 | InChI=1S/C25H26N2O3.ClH/c28-25(30-23-14-8-3-9-15-23)27(22-12-6-2-7-13-22)20-24-19-26(16-17-29-24)18-21-10-4-1-5-11-21;/h1-15,24H,16-20H2;1H
